* Z:\home\martin\Escritorio\2024\githubTC2\TC2\TS5\spice\TS5_Desnormalizada.asc
R1 Vo Vo1 1k
C3 Vo 0 86.128n
R2 N001 Vi 0.5439k
R3 N002 N001 0.5439k
C1 N002 0 104.74n
C2 Vo1 N001 200n
XU1 N002 Vo1 Vo1 opamp Aol=100K GBW=10Meg
V1 Vi 0 AC 1
.inc opamp.sub
.ac dec 1000 0.1 10k
.backanno
.end
